US08623859B2
N-Cyclopropyl-4-methoxy-2,6-dimethyl-N-{[4-({4-[(2-methyl-1H-imidazol-4-yl)methyl]piperazin-1-yl}carbonyl)-1,3-oxazol-2-yl]methyl}benzenesulfonamide
To a stirred solution of N-cyclopropyl-4-methoxy-2,6-dimethyl-N-{[4-(piperazin-1-ylcarbonyl)-1,3-oxazol-2-yl]methyl}benzenesulfonamide (30 mg, 0.07 mmol) in DCE (2 mL) were added 2-methyl-1H-imidazole-4-carboxaldehyde (9 mg, 0.08 mmol) and AcOH (3 μL, 0.07 mmol) and the reaction mixture was stirred for 1 h at ambient temperature. STAB (20 mg, 0.09 mmol) was added and the reaction was stirred for 16 h. The reaction mixture was quenched with H2O (2 mL) and extracted with DCM (3×2 mL). The organic layer was dried over Na2SO4 and concentrated in vacuo. The resulting residue was purified using prep method D to afford the title compound.

reactant | N-cyclopropyl-4-methoxy-2,6-dimethyl-N-{[4-(piperazin-1-ylcarbonyl)-1,3-oxazol-2-yl]methyl}benzenesulfonamide | 0.07 mmol, 30 mg | C1(CC1)N(S(=O)(=O)C1=C(C=C(C=C1C)OC)C)CC=1OC=C(N1)C(=O)N1CCNCC1 | C21H28N4O5S
reactant | 2-methyl-1H-imidazole-4-carboxaldehyde | 0.08 mmol, 9 mg | CC=1NC=C(N1)C=O | C5H6N2O
reactant | AcOH | 0.07 mmol, 3 μL | CC(=O)O | C2H4O2
solvent | DCE | 2 mL | ClCCCl | C2H4Cl2
product | N-Cyclopropyl-4-methoxy-2,6-dimethyl-N-{[4-({4-[(2-methyl-1H-imidazol-4-yl)methyl]piperazin-1-yl}carbonyl)-1,3-oxazol-2-yl]methyl}benzenesulfonamide | C1(CC1)N(S(=O)(=O)C1=C(C=C(C=C1C)OC)C)CC=1OC=C(N1)C(=O)N1CCN(CC1)CC=1N=C(NC1)C | C26H34N6O5S
